US08466148B2
A solution of 5-(benzo[c][1,2,5]thiadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one (0.45 g, 1.465 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.634 g, 1.759 mmol), and Cs2CO3 (2.3 g, 7.329 mmol) in toluene (10 mL) and water (5 mL) was degassed. Then, Pd(dppf)Cl2 (0.24 g, 0.293 mmol) was added under an inert atmosphere and the solution was again degassed. The reaction was then refluxed for 12 h, filtered through a pad of Celite® and the filtrate was diluted with EtOAc (20 mL). The combined organic layers were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(benzo[c][1,2,5]thiadiazol-5-yl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (65 mg) as a yellow solid. 1H NMR (500 MHz, d6-DMSO): δ 8.44 (d, J=8.5 Hz, 1H), 8.35 (s, 1H), 8.12 (d, J=8.2 Hz, 1 H), 8.02 (t, J=7.4 Hz, 2 H), 7.79 (t, J=8.4 Hz, 1 H), 7.73-7.69 (m, 2 H), 7.63 (t, J=8.2 Hz, 1 H), 7.24 (d, J=8.3 Hz, 2 H), 7.12 (d, J=8.4 Hz, 2 H), 5.39 (s, 2 H), 1.49 (s, 6 H). MS: [M+Na]: m/z=502.2, [M+H]: m/z=480.1. HPLC: 98%, Column: Acquity BEH—C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), AcN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 5-(benzo[c][1,2,5]thiadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 1.465 mmol, 0.45 g | N=1SN=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)Br | C12H9BrN2O2S
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 1.759 mmol, 0.634 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 7.329 mmol, 2.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.293 mmol, 0.24 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(benzo[c][1,2,5]thiadiazol-5-yl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 65 mg | N=1SN=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)C2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C28H21N3O3S
